US04294838
Phenyl-(2-thienyl)-sulphoximide
10 g. Phenyl-(2-thienyl)-sulphimide mesitylene-sulphonate are dissolved in 200 ml. methanol. A solution of 7 g. sodium periodate in 150 ml. water are added dropwise thereto, whereafter the reaction mixture is stirred for 24 hours at ambient temperature. The reaction mixture is then rendered alkaline and evaporated on a rotary evaporator. The residue obtained is partitioned between water and dichloromethane and the organic phase is evaporated. There are obtained 3.7 g. phenyl-(2-thienyl)-sulphoximide which, after recrystallisation from ethyl acetate/isopropanol, melts at 133° C.

reactant | Phenyl-(2-thienyl)-sulphimide mesitylene-sulphonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)O)C.C1(=CC=CC=C1)S(=N)C=1SC=CC1
reactant | methanol | CO | CH4O
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | O | H2O
product | Phenyl-(2-thienyl)-sulphoximide | C1(=CC=CC=C1)S(=O)(=N)C=1SC=CC1 | C10H9NOS2
